US07718652B2
A solution of 1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.46 g, 1.7 mmol) in tetrahydrofuran (20 mL) was cool to 0° C. and treated with triphenylphosphine (0.65 g, 2.5 mmol), bromoethanol (0.25 mL, 3.5 mmol) and diisopropyl azodicarboxylate (0.5 mL, 2.6 mmol). After the final addition, the reaction mixture was warmed to room temperature for 2 h, evaporated to a brown oil. The crude product residue was purified by flash chromatography (SiO2, 3-50% ethyl acetate/heptane) to afford 3-(2-bromoethyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.44 g, 63%) as a white solid:

reactant | 1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 1.7 mmol, 0.46 g | FC1=C(C=CC=C1)N1S(NCC2=C1C=CC=C2)(=O)=O | C13H11FN2O2S
reactant | triphenylphosphine | 2.5 mmol, 0.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromoethanol | 3.5 mmol, 0.25 mL | BrC(C)O | C2H5BrO
reactant | diisopropyl azodicarboxylate | 2.6 mmol, 0.5 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(2-bromoethyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.44 g, 63% | BrCCN1S(N(C2=C(C1)C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C15H14BrFN2O2S
